US05210097
Production of 1-(4'-benzyloxyphenyl)-4-(4'-methoxyphenyl)-2,3-diisocyano-1,3-butadiene (Compound No. 2)
16 mg of xanthocillin X monomethyl ether was dissolved in 3 ml of DMF and 48 mg of potassium carbonate was added thereto. Further, 48 μl of benzyl bromide was added thereto and the mixture thus formed was stirred at room temperature for 20 hours. Then the reaction mixture was poured into 50 ml of water and extracted with 30 ml portions of ethyl acetate thrice. The extracts were combined, successively washed with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. The sodium sulfate was filtered off and the solvent was distilled from the filtrate. Thus 20 mg of 1-(4'-benzyloxy- (5H, m) and 7.80 (4H, d).

reactant | xanthocillin X monomethyl ether | 16 mg | COC1=CC=C(C=C1)/C=C(/C(=C/C2=CC=C(C=C2)O)/[N+]#[C-])\[N+]#[C-] | C19H14N2O2
reactant | potassium carbonate | 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 48 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(4'-benzyloxyphenyl)-4-(4'-methoxyphenyl)-2,3-diisocyano-1,3-butadiene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=C(C(=CC1=CC=C(C=C1)OC)[N+]#[C-])[N+]#[C-] | C26H20N2O2
